US05416087
A. 1-(2,2,2-TRICHLOROETHYLOXYCARBONYL)-4-(9H-XANTHENE-9-YLIDENE)PIPERIDINE
To a mixture of 430 mg (1.55 mmol) of 1-methyl-4-(9H-xanthene-9-ylidene)piperidine [Tetrahedron Letters, 29, 5701 (1988)] and 649 μL (4.65 mmol) of triethylamine in 20 mL of dry toluene at 85° C. under an atmosphere of argon was added over 10 min 1.06 mL (7.7 mmol) of 2,2,2-trichloroethyloxycarbonyl chloride. After 30 min the mixture was cooled to room temperature, poured into a solution of 25% aqueous sodium hydroxide, and was extracted with ethyl acetate (3×). The combined organic portions were dried over sodium sulfate, filtered, and concentrated with vacuo to afford the title compound as a crude oil.

reactant | 1-methyl-4-(9H-xanthene-9-ylidene)piperidine | 1.55 mmol, 430 mg | CN1CCC(CC1)=C1C2=CC=CC=C2OC=2C=CC=CC12 | C19H19NO
reactant | triethylamine | 4.65 mmol, 649 μL | C(C)N(CC)CC | C6H15N
reactant | 2,2,2-trichloroethyloxycarbonyl chloride | 7.7 mmol, 1.06 mL | ClC(COC(=O)Cl)(Cl)Cl | C3H2Cl4O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(2,2,2-TRICHLOROETHYLOXYCARBONYL)-4-(9H-XANTHENE-9-YLIDENE)PIPERIDINE | ClC(COC(=O)N1CCC(CC1)=C1C2=CC=CC=C2OC=2C=CC=CC12)(Cl)Cl | C21H18Cl3NO3
